US04721791
3-Bromo-5-(trichlorovinyl)benzyl azide
A solution of crude 3-bromo-5-(trichlorovinyl)benzyl bromide (2.2 g) and sodium azide (760 mg) in 30 ml of ethanol was heated at reflux for 1 hour. The reaction solution was concentrated under reduced pressure and the residue triturated with 100 ml of hexane. The mixture was filtered and the filtrate chromatographed on silica (hexane) to give 1.1 g of pure azide.

reactant | 3-bromo-5-(trichlorovinyl)benzyl bromide | 2.2 g | BrC=1C=C(CBr)C=C(C1)C(=C(Cl)Cl)Cl | C9H5Br2Cl3
reactant | sodium azide | 760 mg | [N-]=[N+]=[N-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-Bromo-5-(trichlorovinyl)benzyl azide | 1.1 g | BrC=1C=C(CN=[N+]=[N-])C=C(C1)C(=C(Cl)Cl)Cl | C9H5BrCl3N3
